US05641784
8-(3-Carboxycyclopentyl)-1,3-dipropyl-7H-purine-2,6-dione
1.41 g (3.9 mmol) of 8-(3-methyloxycarbonylcyclopentyl)-1,3-dipropyl-7H-purine-2,6-dione are suspended in 10 ml of ethanol and 1 ml of water, 0.77 g of potassium hydroxide are added and the mixture is refluxed for 30 minutes. After cooling to 10° C. the mixture is acidified, the crystals precipitated are suction filtered and the filtrate is extracted with dichloromethane. The combined organic extracts are dried and evaporated down; the residue is combined with the filtered crystals. In this way 1.27 g (93.4% of theory) of the title compound are obtained are beige crystals.

reactant | 8-(3-methyloxycarbonylcyclopentyl)-1,3-dipropyl-7H-purine-2,6-dione | 3.9 mmol, 1.41 g | COC(=O)C1CC(CC1)C1=NC=2N(C(N(C(C2N1)=O)CCC)=O)CCC | C18H26N4O4
reactant | potassium hydroxide | 0.77 g | [OH-].[K+]
solvent | ethanol | 10 ml | C(C)O | C2H6O
solvent | water | 1 ml | O | H2O
product | 8-(3-Carboxycyclopentyl)-1,3-dipropyl-7H-purine-2,6-dione | C(=O)(O)C1CC(CC1)C1=NC=2N(C(N(C(C2N1)=O)CCC)=O)CCC | C17H24N4O4
